US07582775B2
Preparation of 2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carboxylic acid dimethylamide
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-6-carboxylic acid dimethylamide (90 mg, 0.188 mmol) is reduced using NaBH4 (14 mg, 0.376 mmol) in a reaction analogous to Example 2 to afford the title compound (90 mg, 100%).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-6-carboxylic acid dimethylamide | 0.188 mmol, 90 mg | CN(C(=O)C=1C=CC2=C(SC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C1)C | C29H37NO3S
reactant | NaBH4 | 0.376 mmol, 14 mg | [BH4-].[Na+]
product | 2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carboxylic acid dimethylamide | 90 mg, 100% | CN(C(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)OCC(C(C)(C)C)O)C)CC)C1)C | C29H39NO3S
